US07626042B2
(1) 2-Hydroxy-N-[2,5-bis(trifluoromethyl)phenyl]benzamide
A mixture of salicylic acid (6.90 g, 50 mmol), 2,5-bis(trifluoromethyl)-aniline (11.46 g, 50 mmol), phosphorus trichloride(2.18 ml, 25 mmol) and chlorobenzene(150 mL) was refluxed for 4 hours. After the reaction mixture was cooled to room temperature, it was diluted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was washed with n-hexane to give the title compound(8.4 g, 47.8%) as a white solid.

reactant | salicylic acid | 50 mmol, 6.90 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | 2,5-bis(trifluoromethyl)-aniline | 50 mmol, 11.46 g | FC(C1=C(N)C=C(C=C1)C(F)(F)F)(F)F | C8H5F6N
reactant | phosphorus trichloride | 25 mmol, 2.18 ml | P(Cl)(Cl)Cl | Cl3P
reactant | chlorobenzene | 150 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Hydroxy-N-[2,5-bis(trifluoromethyl)phenyl]benzamide | 8.4 g, 47.8% | OC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)C(F)(F)F)C=CC=C1 | C15H9F6NO2
